US06521666B1
A mixture of N-(2,6-dichlorobenzoyl)-4-[2-(hydroxymethyl)phenyl]-L-phenylalanine methyl ester (0.15 g), CBr4 (0.22 g) and PPh3 (0.173 g) in CH2Cl2 (5 mL) was stirred at room temperature for 18 h. The solvent was evaporated and the residue was purified by flash column chromatography (silica gel; eluent: CH2Cl2/EtOAc 9:1 to 8:1) to yield 0.12 g of N-(2,6-dichlorobenzoyl)-4-[2-(bromomethyl)phenyl]-L-phenylalanine methyl ester. ESMS: m/z 522 (MH+).

reactant | N-(2,6-dichlorobenzoyl)-4-[2-(hydroxymethyl)phenyl]-L-phenylalanine methyl ester | 0.15 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)CO)=O | C24H21Cl2NO4
reactant | CBr4 | 0.22 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 0.173 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(2,6-dichlorobenzoyl)-4-[2-(bromomethyl)phenyl]-L-phenylalanine methyl ester | 0.12 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)CBr)=O | C24H20BrCl2NO3
